US07829579B2
a. (5R,6R,7S,8S)-5-Hydroxymethyl-2-n-octyl-5,6,7,8-tetrahydroimidazo[1,2-a]pyridine-6,7,8-triol (IC50 for GCase=˜0.07 nM)
A solution of (5R,6R,7S,8S)-6,7,8-Tris(benzyloxy)-5-[(benzyloxy)methyl]-2-(1-octynyl)-5,6,7,8-tetrahydroimidazo[1,2-a]pyridine (120 mg, 0.179 mmol) in THF/EtOH (2:1) (3 ml) is rapidly stirred with Pd(OH)2/C (0.1 g) under an atmosphere of hydrogen for 14 h. After filtration of the catalyst, the organic solution is concentrated on a rotovap and the residue is dissolved in CH2Cl2 (10 ml). The solution is cooled in an acetone-dry ice bath and a solution of BCl3 (1.0 M) in CH2Cl2 is slowly added. The reaction mixture is warmed room temperature and stirred for 3 hours. The reaction mixture is cooled in an ice-water bath, water added and for 0.5 hour. Most of the solvent is removed using a rotovap and the crude product is purified by chromatography (CHCl3/MeOH/H2O 64:25:4). Lyophilization from water gives the title compound as white foam. 1H NMR (400 MHz, CD3OD): δ7.22 (s, 1H), 4.56 (d, 1H, J=8 Hz), 4.20-4.16 (m, 1H), 3.98-3.93 (m, 2H), 3.83 (t, 1H, J=8.4 Hz), 3.70 (dd, 1H, J=8.8 Hz and 10 Hz), 2.60 (t, 2H, J=7.2 Hz), 1.67-1.63 (m, 2H), 1.35-1.30 (m, 10H), 0.90 (t, 3H, J=6.8 Hz). MS (ES+): 313 [M+1].

reactant | (5R,6R,7S,8S)-6,7,8-Tris(benzyloxy)-5-[(benzyloxy)methyl]-2-(1-octynyl)-5,6,7,8-tetrahydroimidazo[1,2-a]pyridine | 0.179 mmol, 120 mg | C(C1=CC=CC=C1)O[C@H]1[C@@H]([C@H](C=2N([C@@H]1COCC1=CC=CC=C1)C=C(N2)C#CCCCCCC)OCC2=CC=CC=C2)OCC2=CC=CC=C2 | C44H48N2O4
solvent | THF EtOH | 3 ml | C1CCOC1.CCO
catalyst | Pd(OH)2/C | 0.1 g | [OH-].[OH-].[Pd+2]
product | (5R,6R,7S,8S)-5-Hydroxymethyl-2-n-octyl-5,6,7,8-tetrahydroimidazo[1,2-a]pyridine-6,7,8-triol | OC[C@@H]1[C@H]([C@@H]([C@H](C=2N1C=C(N2)CCCCCCCC)O)O)O | C16H28N2O4
